Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin / Rocephin
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, fever
 
Major Surgical or Invasive Procedure:
Percutaneous cholecystostomy ___

 
History of Present Illness:
Mr. ___ is a ___ M w/ h/o UTI and self caths, HTN, aortic 
stenosis with planned precut valve replacement today and sent to 
ED for fever and abdominal painThe patient was scheduled for a 
TAVR on the day of admission. however, She was noted to have 
abdominal pain since ___ and she was sent to ___ 
___ prior to the TAVR procedure for
evaluation.
The patient has history of NB vomiting and abdominal pain. 
Reports fever for two nights. CT showed GB wall thickening and 
possible pericholecystic fluid with multiple gallstones + 
Stranding surrounding the GB. At the OSH his WBC was 17.9 and he 
was given zosyn at 1430.

In the ED
=============
Initial vitals: 100.1 86 150/70 14 98% RA
EKG showed: NSR with rate of 84 and LBBB no signs consistent 
with ischemia
Labs were significant for
11.5 MCV=101
15.7 >-------<165
35.5
N:85.7 L:7.0 M:6.1 E:0.3 Bas:0.2 ___: 0.7 Absneut: 13.49 
Abslymp: 1.10 Absmono: 0.96 Abseos: 0.05 Absbaso: 0.03
140 102 34 AGap=23
-------------< 101
5.1 20 1.7
ALT: 14 AP: 62 Tbili: 1.1 Alb: 3.1
AST: 19 Lip: 18
Imaging showed
US of the liver and GB showed Cholelithiasis with gallbladder 
wall thickening and edema, sonographically consistent with acute 
cholecystitis
The patient received:
zosyn x1
Dipyridamole-Aspirin
metoprolol titrate 25mg
The patient was evaluated by surgery who recommended against 
surgical intervention given the ___ medical complexity. ___ 
was consulted in the ED and since he was HD stable they will 
performed a percutaneous cholecystostomy tomorrow morning
The patient was shifted to the floor. On the floor, the patient 
complains of mild abdominal pain but denies chest pain, SOB. He 
complained of lack of sleep and the long wait in the ED.
ROS:
No changes in vision or hearing, no changes in balance.
No cough, no shortness of breath, no dyspnea on exertion.
No chest pain or palpitations.
No nausea or vomiting. No diarrhea or constipation.
No dysuria or hematuria.
No hematochezia, no melena.
No numbness or weakness, no focal deficits
 
Past Medical History:
1. s/p DDD PPM placement ___
2. Hypertension without heart failure
3. s/p CVA with acute infarction anterior left thalamus ___
 
Social History:
___
Family History:
There was no family history of hypertension, diabetes, or heart
disease. His mother died at ___ of an MI; his father died at ___
of liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.7 PO 136 / 74 R Lying 82 18 96 Ra
GEN: Alert, lying in bed, no acute distress
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRLA, EOMI.
NECK: Supple without LAD
PULM: full air entry bilaterally, no crackle. no wheeze. no 
rhonchi
HEART: RRR (+)S1/S2 ejection systolic murmur best heard in the 
aortic area. no r/g
ABD: Soft, non-distended, mild tenderness on the RUQ. No 
rebound/guarding. BS+
EXTREM: Warm, well-perfused, no edema
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT

DISCHARGE PHYSICAL EXAM
=======================
VS: Temp 98.4 BP 158/75 HR 69 RR18 SaO2 97%Ra
I/O: 480/790(-310)
___: NAD, alert, interactive   
HEENT: NC/AT, sclerae anicteric, MMM  
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r  
HEART: RRR without murmurs 
ABDOMEN: NABS, soft and non-distended without pain in the RUQ   
EXTREMITIES: WWP  
NEURO: awake, A&Ox3  

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:19PM BLOOD WBC-15.7*# RBC-3.50* Hgb-11.5* Hct-35.5* 
MCV-101* MCH-32.9* MCHC-32.4 RDW-11.8 RDWSD-43.4 Plt ___
___ 10:19PM BLOOD Neuts-85.7* Lymphs-7.0* Monos-6.1 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-13.49* AbsLymp-1.10* 
AbsMono-0.96* AbsEos-0.05 AbsBaso-0.03
___ 10:19PM BLOOD Plt ___
___ 08:35PM BLOOD Glucose-101* UreaN-34* Creat-1.7* Na-140 
K-5.1 Cl-102 HCO3-20* AnGap-23*
___ 08:35PM BLOOD ALT-14 AST-19 AlkPhos-62 TotBili-1.1
___ 08:46PM BLOOD Lactate-1.3

NOTABLE LABS
============
___ 01:06PM OTHER BODY FLUID TotBili-2.6
___ 10:19PM BLOOD WBC-15.7*# RBC-3.50* Hgb-11.5* Hct-35.5* 
MCV-101* MCH-32.9* MCHC-32.4 RDW-11.8 RDWSD-43.4 Plt ___
___ 06:20AM BLOOD WBC-14.7* RBC-3.49* Hgb-11.5* Hct-35.2* 
MCV-101* MCH-33.0* MCHC-32.7 RDW-11.8 RDWSD-43.6 Plt ___
___ 05:22AM BLOOD WBC-7.7 RBC-3.19* Hgb-10.5* Hct-31.9* 
MCV-100* MCH-32.9* MCHC-32.9 RDW-11.6 RDWSD-42.8 Plt ___
___ 08:35PM BLOOD Glucose-101* UreaN-34* Creat-1.7* Na-140 
K-5.1 Cl-102 HCO3-20* AnGap-23*
___ 05:45AM BLOOD Glucose-99 UreaN-26* Creat-1.4* Na-139 
K-3.8 Cl-104 HCO3-22 AnGap-17
___ 06:20AM BLOOD ALT-13 AST-19 LD(LDH)-208 AlkPhos-62 
TotBili-1.3
___ 10:50PM URINE Color-Straw Appear-Clear Sp ___
___ 10:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:50PM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:50PM URINE CastHy-4*

DISCHARGE LABS
==============
___ 05:45AM BLOOD WBC-6.8 RBC-3.47* Hgb-11.5* Hct-34.6* 
MCV-100* MCH-33.1* MCHC-33.2 RDW-11.4 RDWSD-41.5 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-99 UreaN-26* Creat-1.4* Na-139 
K-3.8 Cl-104 HCO3-22 AnGap-17
___ 05:45AM BLOOD Calcium-8.0* Phos-4.1 Mg-1.8

MICROBIOLOGY
============
___ 1:06 pm BILE

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

__________________________________________________________
___ 10:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:35 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
Mr. ___ is a very pleasant ___ year old man with history 
of sick sinus syndrome s/p PPM placement, HTN, CVA of the 
anterior left thalamus who presented with fever and abdominal 
pain. During the course of his hospital stay, the following 
issues were addressed:

# Acute cholecystitis.  Mr. ___ presented to ___ 
___ with several days of abdominal pain and 2 days 
of fever. CT showed GB wall thickening and possible 
pericholecystic fluid with multiple gallstones + Stranding 
surrounding the GB. At the OSH his WBC was 17.9 and he was given 
zosyn at 1430 and transferred to ___. Here US of the liver and 
GB showed cholelithiasis with gallbladder wall thickening and 
edema, sonographically consistent with acute cholecystitis. He 
was continued on IV antibiotics (Piperacillin-Tazobactam 4.5 g 
IV Q6H) on admission. The patient was evaluated by surgery who 
recommended against surgical intervention given the ___ 
medical complexity. Percutaneous cholecystosotomy/catheter 
placement was undertaken by ___ on ___ (due to patient's severe 
AS and poor surgical candidacy). He was transitioned to PO 
antibiotics, Ciprofloxacin HCl 500 mg PO/NG Q12H & MetroNIDAZOLE 
500 mg PO/NG Q8H, and did well. WBC on discharge was 6.8. He was 
discharged with plan for 7 days' total antibiotics (start date 
___ | projected end date ___ and ___ follow up.

# Severe aortic stenosis, TAVR work-up. Known severe AS. TAVR 
work-up, including left heart cath was halted due to patient's 
acute illness. TAVR team was contacted during this stay and 
pre-TAVR work up was continued. He was seen by his first of 2 
cardiac surgery consult teams and deemed extreme risk for 
conventional AV repair. TTE was ordered but not completed before 
discharge. Underwent left heart cath ___ without issue. 
Continued home Metoprolol Tartrate 25 mg PO BID.

# s/p CVA with acute infarction anterior left thalamus ___. Held Dipyridamole-Aspirin 1 CAP PO BID initially for perc 
chole above and restarted on hospital day 1. 

# AoCKD. Presented with creatinine 1.8, baseline Cr is 1.2-1.4 
per primary care physician. Downtrended to 1.4 with good PO 
intake. 

Transitional issues
===================
- Mr. ___ need to follow up for definitive 
management of gallbladder at the discretion of his PCP. He will 
either need to see our interventional radiologists to have 
percutaneous cholecystostomy tube removed or with ___ 
surgery to have gallbladder (and tube) removed.
- Follow-up imaging date: If plan is to have surgery, the 
surgical
 team can leave drain in until surgery. Drain study can be done
 ___ weeks after placement if surgical team prefers. Please ___
 ___ NP ___ ___ who can have drain study
 arranged if surgical team agrees with this plan. 
- Patient has listed ceftriaxone allergy and heparin allergy due 
to idiopathic angioedema. Fondaparinux was used while patient 
was in-house for DVT prophylaxis.
- Iron level pending on discharge
- Antibiotics: Ciprofloxacin HCl 500 mg PO/NG Q12H & 
MetroNIDAZOLE 500 mg PO/NG Q8H, with adequate drainage from 
catheter will need short course of antibiotics, 7 days (start 
date ___ | projected end date ___
- Continued pre-TAVR work-up. Underwent left heart cath ___, 
seen by ___ cardiac surgery consult. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. aspirin-dipyridamole ___ mg oral BID 
2. Metoprolol Tartrate 25 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
5. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*5 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*7 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  aspirin-dipyridamole ___ mg oral BID  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary
=====
Acute cholecystitis 

Secondary
=======
Severe aortic stenosis
Past stroke
Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___ 
___. You came to us with fevers, chills and abdominal 
pain and were found to have gallbladder stones and an infection 
of your gallbladder. Because of your aortic stenosis our 
surgeons felt that it was unsafe to operate on you. Our 
interventional radiologists were able to place a decompression 
tube (percutaneous cholecystostomy tube) and you tolerated this 
well. You were given IV antibiotics and transitioned to oral 
antibiotics without issue. We also continued your TAVR work-up 
while you were here with a cardiac catheterization, an 
echocardiogram and a first evaluation with our cardiac surgeons. 


Please take all of your medications as detailed in this 
discharge summary. If you experience any of the danger signs 
listed below, please call your primary care doctor or come to 
the emergency department immediately.

Best Wishes,

Your ___ Care Team

___ Drain Care:
 -Please look at the site every day for signs of infection
 (increased redness or pain, swelling, odor, yellow or bloody
 discharge, warm to touch, fever).
 -Note color, consistency, and amount of fluid in the drain. 
Call
 the doctor, ___, or ___ nurse if the amount
 increases significantly or changes in character.
 -Be sure to empty the drain bag or bulb frequently. Record the
 output daily. You should have a nurse doing this for you while
in
 the hospital and at home on an every-other day basis as they
can.
 -You may shower; wash the area gently with warm, soapy water.
 -Keep the insertion site clean and dry otherwise.
 -Avoid swimming, baths, hot tubs; do not submerge yourself in
 water.
 -Change the dressing daily. Cleanse skin with ___ strength
 hydrogen peroxide. Rinse with saline moistened q-tip. Apply a
 DSD. 
 -Catheter Flushing: Do not flush catheter. Can flush 5 cc 
saline
 into bag as needed to clear line.
 -Catheter Security: Every shift check the patency of tube and
 that the tube and drainage bag are secured to the patient.
 For questions regarding care of catheter call: in-patient
 ___ out-patient call ___. 
 Troubleshooting: If catheter stops draining suddenly:
 1) Check that the stopcock is open.
 2) Remove dressing carefully and inspect to make sure that 
there
 is no kink in the catheter.
 3) inspect to be sure that there is no debris blocking the
 catheter. If there is, then firmly flush 5 cc of sterile saline
 into the catheter. 
 - If you develop worsening abdominal pain, fevers or chills
 please call your surgeon or Interventional Radiology at ___ 
at
 ___ and page ___.
 
Followup Instructions:
___